US09422271B2
A mixture of 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl) pyrimidin-4-amine (200 mg, 0.6 mmol, 1.0 eq), piperidine (102.7 mg, 1.2 mmol, 2.0 eq) in iPrOH (4 ml) was stirred at room temperature for 2 h. Then the mixture was washed with water, extracted with EtOAc, dried (Na2SO4). EtOAc was removed by evaporation and the residue was recrystalized by PE to give compound N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(piperidin-1-yl)-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine (101 mg, 44.3%).

reactant | 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl) pyrimidin-4-amine | 0.6 mmol, 200 mg, 1.0 eq | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C[Si](C)(C)C | C15H18ClN5Si
reactant | piperidine | 1.2 mmol, 102.7 mg, 2.0 eq | N1CCCCC1 | C5H11N
solvent | iPrOH | 4 ml | CC(C)O | C3H8O
product | N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(piperidin-1-yl)-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine | 101 mg, 44.3% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1C#C[Si](C)(C)C)N1CCCCC1 | C20H28N6Si
